US06943183B2
N-[2-Hydroxy-1-(hydroxymethyl)ethyl]-2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzamide (Compound 237)
Using the method in Example 172, 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl] sulfonyl}benzoic acid (53 mg, 0.10 mmol, 0.20M in DMF) and serinol (46 mg, 0.50 mmol, 1.0M in DMF) were combined (reaction time 3 days at room temperature) to give 23 mg of the desired compound: Low resolution mass spectrum (LC-MS, APCI) m/z 604 [M+H]+.

reactant | 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl] sulfonyl}benzoic acid | 0.10 mmol, 0.20M, 53 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C29H26N2O6S
reactant | serinol | 0.50 mmol, 1.0M, 46 mg | NC(CO)CO | C3H9NO2
product | N-[2-Hydroxy-1-(hydroxymethyl)ethyl]-2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzamide | 23 mg | OCC(CO)NC(C1=C(C=CC=C1)S(=O)(=O)CC1=C(C=CC=2C(CCCC12)=O)O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C32H33N3O7S
